US06936608B2
d) 2′-Fluoro-5′-(3-trifluoromethylimidazo[1,2-b][1,2,4]triazin-7-yl)biphenyl-2-carbonitrile
A stirred mixture of 7-bromo-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine (99.0 mg, 0.371 mmol), dried potassium phosphate (0.1581 g, 0.745 mmol) and 2′-fluoro-5′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile (0.2402 g, 0.743 mmol) in anhydrous N,N-dimethylacetamide (2 ml) was degassed by evacuation and refilling with nitrogen three times. Tetrakis(triphenylphosphine)palladium(0) (22.1 mg, 0.0191 mmol) was then added and the mixture was degassed with two more evacuation-refilling cycles before heating at 80° C. under nitrogen for 6.5 h. The mixture was diluted with ethyl acetate and filtered through glass fibre paper, washing the solid with more ethyl acetate. The filtrates were washed with brine (15 ml), and the aqueous layer was extracted further with ethyl acetate (25 ml). The combined organic extracts were dried (Na2SO4) and evaporated in vacuo. The residue was purified by flash chromatography (silica gel, 30% EtOAc/isohexane) to give 76.6 mg (54%) of the title compound: mp 168-174° C. (CH2Cl2-EtOAc); 1H NMR (400 MHz, CDCl3) δ 7.43 (1H, t, J 9.0 Hz), 7.57 (1H, td, J 7.8, 1.2 Hz), 7.60 (1H, d, J 7.8 Hz), 7.73 (1H, td, J 7.8, 1.3 Hz), 7.85 (1H, dd, J 7.7, 1.1 Hz), 8.16-8.23 (2H, m), 8.62 (1H, s), 8.81 (1H, s); MS (ES+) m/z 384 [M+H]+. Anal. Found: C, 58.31; H, 2.28; N, 17.74%. Required for C19H9F4N5.0.5H2O: C, 58.17; H, 2.57; N, 17.85%.

reactant | 7-bromo-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine | 0.371 mmol, 99.0 mg | BrC1=CN=C2N1N=CC(=N2)C(F)(F)F | C6H2BrF3N4
reactant | potassium phosphate | 0.745 mmol, 0.1581 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2′-fluoro-5′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile | 0.743 mmol, 0.2402 g | FC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)C=1C(=CC=CC1)C#N | C19H19BFNO2
solvent | N,N-dimethylacetamide | 2 ml | CN(C(C)=O)C | C4H9NO
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.0191 mmol, 22.1 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2′-Fluoro-5′-(3-trifluoromethylimidazo[1,2-b][1,2,4]triazin-7-yl)biphenyl-2-carbonitrile | 76.6 mg, 54% | FC1=C(C=C(C=C1)C1=CN=C2N1N=CC(=N2)C(F)(F)F)C=2C(=CC=CC2)C#N | C19H9F4N5
